US04960884
A solution of 2.5 grams (0.012 mole) of 2-(2-fluoroethoxy)-1-naphthaldehyde (prepared by the method of Example 1 from 2-hydroxy-1-naphthaldehyde) and 0.6 gram (0.015 mole) of sodium borohydride in 35 ml of ethanol was stirred at room temperature for 24 hours. The mixture was diluted with water and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 1.2 gram of 2-(2-fluoroethoxy)-1-hydroxymethylnaphthalene as a solid.

reactant | 2-(2-fluoroethoxy)-1-naphthaldehyde | 0.012 mole, 2.5 grams | FCCOC1=C(C2=CC=CC=C2C=C1)C=O | C13H11FO2
reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
reactant | sodium borohydride | 0.015 mole, 0.6 gram | [BH4-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(2-fluoroethoxy)-1-hydroxymethylnaphthalene | 1.2 gram | FCCOC1=C(C2=CC=CC=C2C=C1)CO | C13H13FO2
